US06468995B1
To a solution of diphenylmethyl 7β-[2-(2-aminothiazol-4-yl)-2-(Z)-(trityloxyimino)acetamido]-3-[(pyrimidin-4-yl)methylthio]-3-cephem-4-carboxylate (1.57 g, 1.74 m mol) in formic acid (6.28 ml) was added conc. HCl (0.435 ml, 5.22 m mol) at 5° C. The mixture was stirred at room temperature for 1 hour. The reaction mixture was poured into a mixture of ethyl acetate (43 ml) and acetone (22 ml). The precipitates were collected by filtration, and dried in vacuo. The crude product was desalted with HP-20. The eluent was concentrated to give precipitates. The precipitates were collected by filtration and dried in vacuo to give 7β-[2-(2-aminothiazol-4-yl)-2-(Z)-(hydroxyimino)acetamido]-3-[(pyrimidin-4-yl)methylthio]-3-cephem-4-carboxylic acid (128 mg, 0.259 m mol).

reactant | diphenylmethyl 7β-[2-(2-aminothiazol-4-yl)-2-(Z)-(trityloxyimino)acetamido]-3-[(pyrimidin-4-yl)methylthio]-3-cephem-4-carboxylate | 1.57 g | NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)SCC2=NC=NC=C2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=N/OC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C49H39N7O5S3
reactant | HCl | 0.435 ml | Cl | ClH
reactant | ethyl acetate | 43 ml | C(C)(=O)OCC | C4H8O2
reactant | acetone | 22 ml | CC(=O)C | C3H6O
solvent | formic acid | 6.28 ml | C(=O)O | CH2O2
product | 7β-[2-(2-aminothiazol-4-yl)-2-(Z)-(hydroxyimino)acetamido]-3-[(pyrimidin-4-yl)methylthio]-3-cephem-4-carboxylic acid | 128 mg | NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)SCC2=NC=NC=C2)C(=O)O)C1=O)=N/O | C17H15N7O5S3
